US08476297B2
(R)—N-Cyclopentyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide
A mixture of (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline (0.100 g, 0.361 mmol), N-ethyl-N-isopropylpropan-2-amine (0.0754 mL, 0.433 mmol), and isocyanatocyclopentane (0.0421 g, 0.379 mmol) in DCM (4 mL) was stirred at RT for 24 h. The mixture was concentrated and purified by ISCO (20% EtOAc/hexanes) to give the white solid. MS (ESI, positive ion) m/z: 389 (M+1).

reactant | (R)-1-(4-(trifluoromethyl)phenyl)-1,2,3,4-tetrahydroisoquinoline | 0.361 mmol, 0.100 g | FC(C1=CC=C(C=C1)[C@H]1NCCC2=CC=CC=C12)(F)F | C16H14F3N
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.433 mmol, 0.0754 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | isocyanatocyclopentane | 0.379 mmol, 0.0421 g | N(=C=O)C1CCCC1 | C6H9NO
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-Cyclopentyl-1-(4-(trifluoromethyl)phenyl)-3,4-dihydroisoquinoline-2(1H)-carboxamide | C1(CCCC1)NC(=O)N1[C@@H](C2=CC=CC=C2CC1)C1=CC=C(C=C1)C(F)(F)F | C22H23F3N2O
